US04968702
3-Amino-6-fluoro-2-(4-iodophenyl)-4-quinolinecarboxylic acid methyl ester
To a solution of 400 ml of acetonitrile and 40 ml of tetrahydrofuran was added 4.0 g of 3-amino-6-fluoro-2-(4-iodophenyl)-4-quinolinecarboxylic acid and 2.0 g of cesium carbonate. The solution was stirred for 1 hour and 0.84 ml of methyl iodide was added. After stirring for an additional 12 hours, the volatiles were removed in vacuo and the residue dissolved in methylene chloride and ethyl acetate. The insoluble solids were removed by filtration and the volatiles removed from the filtrate in vacuo. The yellow solid obtained was recrystallized from methylene chloride, giving 3.45 g of the desired compound as yellow crystals, mp 223°-225° C.

reactant | acetonitrile | 400 ml | C(C)#N | C2H3N
reactant | 3-amino-6-fluoro-2-(4-iodophenyl)-4-quinolinecarboxylic acid | 4.0 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)F)C1=CC=C(C=C1)I | C16H10FIN2O2
reactant | cesium carbonate | 2.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.84 ml | CI | CH3I
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-Amino-6-fluoro-2-(4-iodophenyl)-4-quinolinecarboxylic acid methyl ester | 3.45 g | COC(=O)C1=C(C(=NC2=CC=C(C=C12)F)C1=CC=C(C=C1)I)N | C17H12FIN2O2
